US08217029B2
8.i) 2-Methoxy-8-piperazin-1-yl-[1,5]-naphthyridine
A solution of 8-bromo-2-methoxy-[1,5]naphthyridine (4.78 g, 20 mmol, prepared as in WO 2006/032466) and piperazine (8.6 g, 100 mmol) in 1-pentanol (20 mL) was heated at 80° C. over night. The mixture was cooled and the precipitate filtered off. The filtrate was diluted with EA (100 mL) and washed with water (20 mL). The aq. phase contains some product, which was extracted with DCM/MeOH 9:1 (3×30 mL). The org. phases were combined, dried over MgSO4 and concentrated under reduced pressure. The residue was purified by CC (EA/MeOH 4:1 to MeOH) to give the desired intermediate (4.7 g, 96%) as yellow oil.

reactant | 8-bromo-2-methoxy-[1,5]naphthyridine | 20 mmol, 4.78 g | BrC=1C=CN=C2C=CC(=NC12)OC | C9H7BrN2O
reactant | piperazine | 100 mmol, 8.6 g | N1CCNCC1 | C4H10N2
solvent | 1-pentanol | 20 mL | C(CCCC)O | C5H12O
product | 2-Methoxy-8-piperazin-1-yl-[1,5]-naphthyridine | 4.7 g, 96% | COC1=NC2=C(C=CN=C2C=C1)N1CCNCC1 | C13H16N4O
